US05541229
4'-[(2-Hydroxybenzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
0.9 g (2.25 mmol) of tert.butyl 4'-[(2-hydroxybenzimidazol-1-yl)-methyl]biphenyl-2-carboxylate are dissolved in 10 ml of methylene chloride and treated with 10 ml of trifluoroacetic acid. The solution is stirred for 2 hours at ambient temperature and then evaporated to dryness on a rotary evaporator. The oily residue is dissolved in 50 ml of methylene chloride and extracted by shaking twice using water. The organic phase is dried using magnesium sulphate and evaporated to dryness. The crystalline residue thus obtained is mixed with a small amount of diethylether, filtered under suction and dried in vacuum at 50° C.

reactant | tert.butyl 4'-[(2-hydroxybenzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | 2.25 mmol, 0.9 g | OC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC=C2 | C25H24N2O3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diethylether | C(C)OCC | C4H10O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4'-[(2-Hydroxybenzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | OC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C21H16N2O3
